US09326973B2
Neat Deoxo-Fluor® (342 mg, 1.546 mmol) was added to a cold (0° C.) stirred ethyl 2-(hydroxymethyl)tetrahydro-2H-pyran-2-carboxylate (194 mg, 1.031 mmol) and the mixture was heated at 70° C. overnight. The reaction was quenched with ice and neutralized with sat. aq. NaHCO3 and extracted with DCM (2×). The combined organic layers were washed with water, brine and dried (MgSO4), filtered and dried to give a yellow-orange oil which was purified by silica gel FCC (0-5% EtOAc in DCM) to afford ethyl 2-(fluoromethyl)tetrahydro-2H-pyran-2-carboxylate as a colorless oil (125 mg, 63%) which was saponified (LiOH.H2O, MeOH-THF—H2O, sonicate) to afford Cap P-43 as a viscous oil (82 mg, 77%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 4.66-4.54 (m, 1H), 4.54-4.41 (m, 1H), 4.02-3.84 (m, 2H), 1.98-1.84 (m, 1H), 1.84-1.72 (m, 2H), 1.69-1.52 (m, 4H).

reactant | Deoxo-Fluor | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
reactant | ethyl 2-(hydroxymethyl)tetrahydro-2H-pyran-2-carboxylate | 1.031 mmol, 194 mg | OCC1(OCCCC1)C(=O)OCC | C9H16O4
product | ethyl 2-(fluoromethyl)tetrahydro-2H-pyran-2-carboxylate | 125 mg, 63% | FCC1(OCCCC1)C(=O)OCC | C9H15FO3
